US05786151
Protocol for Detection of Low Levels of Salmonella in Liquid Media by ATP Bioluminescence
Adenosine-5'-triphosohate: ATP disodium salt (A 7699) was purchased from Sigma Chemical Company Ltd., Poole, Dorset U.K. Brain Heart Infusion Broth (BHI)--Unipath Ltd. was used to grow the inoculum. Serial dilutions of broth culture were made using 0.1M potassium phosphate buffer (pH 7).

reactant | ATP disodium salt | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)([O-])OP(=O)(O)[O-])O)O.[Na+].[Na+]
reactant | potassium phosphate | 0.1M, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
